US07932272B2
6-Amino-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid ethyl ester
Catechol borane (2.7 mL, 1M tetrahydrofuran solution, 2.7 mmol) was added dropwise to ethoxyacetylene (0.7 mL, 40% hexane solution, 2.83 mmol) on an ice bath, and the mixture was stirred for 1 hour at room temperature. The mixture was further heated at 70° C. and stirred for 2 hours, and allowed to room temperature. A solution of 2,6-diamino-5-iodo-nicotinic acid ethyl ester described in Preparation Example R-1 (415 mg, 1.35 mmol) in tetrahydrofuran (5.5 mL), tetrakis(triphenylphosphine)palladium(0) (48 mg, 0.042 mmol) and sodium hydroxide (160 mg, 4 mmol, powder) were added thereto, followed by stirring for 7 hours 30 minutes under reflux. The reaction mixture was allowed to room temperature, 2N hydrochloric acid (4.7 mL, 9.4 mmol) was added thereto, followed by stirring for 60 hours at room temperature. After the reaction was completed, the reaction mixture was evaporated, and extracted using diethyl ether. The aqueous layer was fractionated, neutralized on an ice bath with an aqueous solution of 5N sodium hydroxide, then, was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then evaporated, the resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=2:1), and the title compound (97 mg, 0.47 mmol, 35%) was obtained.

reactant | Catechol borane | 2.7 mmol, 1M, 2.7 mL | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | ethoxyacetylene | 2.83 mmol, 0.7 mL | C(C)OC#C | C4H6O
reactant | 2,6-diamino-5-iodo-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C(=C1)I)N)N)=O | C8H10IN3O2
reactant | sodium hydroxide | 4 mmol, 160 mg | [OH-].[Na+]
reactant | hydrochloric acid | 9.4 mmol, 2N, 4.7 mL | Cl | ClH
solvent | tetrahydrofuran | 5.5 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.042 mmol, 48 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Amino-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid ethyl ester | 0.47 mmol, 97 mg, 35% | C(C)OC(=O)C=1C=C2C(=NC1N)NC=C2 | C10H11N3O2
